US06734205B2
Under nitrogen, ethyl 6-(2-tert-butoxy-2-oxoethoxy)-1-methyl-4-(trifluoromethyl)-1H-indole-2-carboxylate (1.3 g, 3.24 mmol) was dissolved in acetic acid (20 ml), followed by adding thereto a 30% aqueous sulfuric acid solution (10 ml), and the resulting mixture was stirred at 50° C. for 1 hour. Crystals were precipitated and the reaction mixture became a white suspension. The reaction mixture was cooled to room temperature, followed by adding thereto water, and the crystals precipitated were collected by filtration, washed with water, and then dried under reduced pressure to obtain 1.17 g of [[2-(ethoxycarbonyl)-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]oxy]acetic acid as white crystals.

reactant | ethyl 6-(2-tert-butoxy-2-oxoethoxy)-1-methyl-4-(trifluoromethyl)-1H-indole-2-carboxylate | 3.24 mmol, 1.3 g | C(C)(C)(C)OC(COC1=CC(=C2C=C(N(C2=C1)C)C(=O)OCC)C(F)(F)F)=O | C19H22F3NO5
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | [[2-(ethoxycarbonyl)-1-methyl-4-(trifluoromethyl)-1H-indol-6-yl]oxy]acetic acid | 1.17 g | C(C)OC(=O)C=1N(C2=CC(=CC(=C2C1)C(F)(F)F)OCC(=O)O)C | C15H14F3NO5
